US08633212B2
Step 3. 6-bromo-1′,3′-dihydro-2,2′-spirobi[inden]-1(3H)-one
A mixture of 6-bromo-indan-1-one (1.05 g, 5 mmol), 1,2-bis(bromomethyl)benzene (1.31 g, 5 mmol) in THF (50 mL) was added NaH (240 mg, 10 mmol) at room temperature, the mixture was refluxed for 2 hours. The mixture was quenched with water, concentrated, then extracted with DCM, washed with brine, dried over Na2SO4, concentrated to 6-bromo-1′,3′-dihydro-2,2′-spirobi[inden]-1(3H)-one (1.8 g, 33%).

reactant | 6-bromo-indan-1-one | 5 mmol, 1.05 g | BrC1=CC=C2CCC(C2=C1)=O | C9H7BrO
reactant | 1,2-bis(bromomethyl)benzene | 5 mmol, 1.31 g | BrCC1=C(C=CC=C1)CBr | C8H8Br2
reactant | NaH | 10 mmol, 240 mg | [H-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 6-bromo-1′,3′-dihydro-2,2′-spirobi[inden]-1(3H)-one | BrC1=CC=C2CC3(C(C2=C1)=O)CC1=CC=CC=C1C3 | C17H13BrO
